US07601856B2
Following method A, potassium t-butoxide (37 g, 320 mmol) was added in portions to a cooled (2° C.) solution of cyclohexanone oxime (35 g, 300 mmol) in DMF (350 mL). The cooled reaction mixture was stirred for 20 minutes and then 1-chloro-4-nitrobenzene (50 g, 320 mmol) was added in portions. The reaction mixture was stirred at ˜10° C. for 30 minutes and then allowed to warm to room temperature and stirred for an additional 4 hours. The reaction mixture was concentrated under reduced pressure to remove the DMF and then treated with water (300 mL). The precipitate was collected by filtration and washed with water. Recrystallization of the crude material from isopropanol and column chromatography provided cyclohexanone O-(4-nitro-phenyl)-oxime (48 g). Cyclohexanone O-(4-nitro-phenyl)-oxime (48 g, 205 mmol) was dissolved in warm isopropanol (350 mL) and 12 N hydrochloric acid (94 mL) was added. The reaction mixture was heated to reflux for 3.5 hours and then cooled in an ice bath. The solid was collected by filtration, washed with water and cold isopropanol, and dried in an oven to give 8-nitro-1,2,3,4-tetrahydro-dibenzofuran (33 g, 150 mmol). A mixture of 8-nitro-1,2,3,4-tetrahydro-dibenzofuran (11 g, 50 mmol) and Raney nickel (˜11 g wet weight) in ethanol (200 mL) was hydrogenated at 50 PSI on a Parr shaker overnight. The mixture was filtered through Celite® and the filtrate was concentrated. The crude solid was recrystallized from hexane to give 6,7,8,9-tetrahydro-dibenzofuran-2-YLAMINE (7.6 g). Mp 71-72° C.

reactant | 8-nitro-1,2,3,4-tetrahydro-dibenzofuran | 50 mmol, 11 g | [N+](=O)([O-])C=1C=CC2=C(C3=C(O2)CCCC3)C1 | C12H11NO3
catalyst | Raney nickel | ˜11 g | [Ni] | Ni
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 6,7,8,9-tetrahydro-dibenzofuran-2-YLAMINE | 7.6 g | C1=C(C=CC=2OC3=C(C21)CCCC3)N | C12H13NO
